US09422331B2
To a rt solution of tert-butyl methyl((S)-1-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate (60 mg, 121 μmol) in DMF (302 μl) was added 4-(bromomethyl)-7-methoxycoumarin (35.8 mg, 133 μmol), cesium carbonate (47.2 mg, 145 μmol), and sodium iodide (21.7 mg, 145 μmol). The reaction was stirred at rt for 8 h, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-1-((7-methoxy-2-oxo-2H-chromen-4-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (44.3 mg, 54%) as a white solid. MS m/z 707 (MNa)+.

reactant | tert-butyl methyl((S)-1-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate | 121 μmol, 60 mg | CN(C(OC(C)(C)C)=O)[C@H](C(=O)N[C@@H]1C(NC2=C(N([C@H]1C)C(CS(=O)(=O)C)=O)C=CC=C2)=O)C | C22H32N4O7S
reactant | 4-(bromomethyl)-7-methoxycoumarin | 133 μmol, 35.8 mg | BrCC1=CC(OC2=CC(=CC=C12)OC)=O | C11H9BrO3
reactant | cesium carbonate | 145 μmol, 47.2 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 145 μmol, 21.7 mg | [I-].[Na+]
solvent | DMF | 302 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((3S,4S)-1-((7-methoxy-2-oxo-2H-chromen-4-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 44.3 mg, 54% | COC1=CC=C2C(=CC(OC2=C1)=O)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(CS(=O)(=O)C)=O)C=CC=C2 | C33H40N4O10S
